* Z:\mnt\design.r\spice\examples\3753.asc
R1 N015 0 .012
L1 IN N002 216µ
L2 N001 N003 10.7µ
L3 N001 OUT 3.3µ
C2 OUT 0 47µ
R2 OUT N021 137K
R3 N021 0 137K
R4 N014 N011 1.96K
R5 0 N014 1.87K
V1 IN 0 48
Rload1 OUT 0 .25
C3 0 N009 4.7µ
M1 N002 N012 N015 N015 BSC190N15NS3
R6 N011 IN 105K
R7 N019 N018 1K
R8 N013 N009 100
R9 0 N025 1K
XU3 N018 N020 N013 N025 PC817
C8 0 N016 .01µ
C9 0 N022 .01µ
R13 N010 0 30.1K
R14 N026 0 57.6K
R15 N027 0 14.7K
R16 N028 0 44.2K
R19 N017 N015 1K
M2 N003 N006 0 0 BSC0902NSI
C10 OUT 0 560µ
C11 N002 N004 68n
M4 N004 N008 0 0 Si7113DN
C12 N008 N007 100n
R20 N008 0 10K
D1 N008 0 BAT46WJ
R25 N023 N024 100K
R26 N024 N025 100K
C4 N019 N018 4.7n
XU2 MP_01 MP_02 N010 N024 N023 NC_03 N016 N026 N011 N014 N028 NC_04 NC_05 N027 MP_06 MP_07 N022 0 0 0 N017 N015 MP_08 N012 MP_09 N009 MP_10 IN MP_11 NC_12 MP_13 N007 LT3753
C6 N013 0 1µ
M3 N001 N005 0 0 BSC0902NSI
R11 N003 N005 5
R12 N001 N006 5
XU1 N020 NC_14 OUT NC_15 0 0 NC_16 N021 LT1431
C5 N020 N021 3.3n
C1 OUT 0 1µ
R10 OUT N019 100
C7 N019 0 22µ
D2 0 N019 1N750
C13 N002 N004 .22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 5m startup
.lib LT1431.sub
.lib LT3753.sub
.lib PC817.sub
.backanno
.end
